US06255305B1
To dimethyl malonate (41.6 g) in 1,4-dioxane (900 ml) was added sodium hydride (60% dispersion in mineral oil; 18.9 g) portionwise. To the resultant gel was added 2-bromopyrimidine (50.0 g) in 1,4-dioxane (200 ml) dropwise. The mixture was stirred at room temperature for 1 h, then at reflux overnight. To the cooled solution was added water (400 ml), and 5 N hydrochloric acid until the pH was ˜1. The solution was washed with ethyl acetate (2×400 ml), the organic layers combined, washed with saturated sodium hydrogen carbonate solution (1×400 ml) and saturated sodium chloride solution (1×400 ml), dried (magnesium sulfate) and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, eluent =0 to 20% ethyl acetate in dichloromethane) to yield dimethyl 2-(pyrimidin-2-yl)malonate as a yellow/orange oil (24.1 g). 1H NMR (250 MHz, CDCl3) δ3.83 (6 H, s), 5.16 (1 H, s)7.28 (1 H, t, J=5.0 Hz), 8.87 (2 H, d, J=5.0 Hz); MS (ES+) m/e 211 [MH+].

reactant | dimethyl malonate | 41.6 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 18.9 g | [H-].[Na+]
reactant | 2-bromopyrimidine | 50.0 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | 1,4-dioxane | 900 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 400 ml | O | H2O
product | dimethyl 2-(pyrimidin-2-yl)malonate | 24.1 g | N1=C(N=CC=C1)C(C(=O)OC)C(=O)OC | C9H10N2O4
